US04602030
2-(2,4-Dichlorobenzoyloxy)-1-(1-imidazolyl)-3-phenylthiopropane
A mixture of 1-(1-imidazolyl)-3-phenylthiopropan-2-ol and 5 g (0.213 mole), in pyridine (15 ml) was cooled in an ice and water bath; then 4.9 g [3.3 ml (0.0235 mole)] 2,4-dichlorobenzoyl chloride was added dropwise. The reaction mixture was allowed to warm to room temperature and then stirred overnight. The resulting mixture was diluted with water and extracted with ethyl acetate. The organic phase was washed with a sodium bicarbonate solution, then several times with water and once with brine, dried, treated with activated charcoal, filtered and concentrated to give a brown gum (8.3 g).

reactant | 1-(1-imidazolyl)-3-phenylthiopropan-2-ol | N1(C=NC=C1)CC(CSC1=CC=CC=C1)O | C12H14N2OS
reactant | 2,4-dichlorobenzoyl chloride | 0.0235 mole, 3.3 ml, 4.9 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(2,4-Dichlorobenzoyloxy)-1-(1-imidazolyl)-3-phenylthiopropane | 8.3 g | ClC1=C(C(=O)OC(CN2C=NC=C2)CSC2=CC=CC=C2)C=CC(=C1)Cl | C19H16Cl2N2O2S
